US08076336B2
6-(1-Ethylpropoxy)-8-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine
3-Pentanol (10.2 ml) was initially charged at RT with stirring and cooled almost to 0° C. with an ice bath. Subsequently, the mixture was admixed with portions of sodium hydride (511 mg). The suspension formed was heated to 55° C. for 30 min and admixed with portions of 6-chloro-8-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine trifluoroacetate (W2.002b; 500 mg), suspended in 3-pentanol (5 ml) and DMF (10 ml). After stirring at 55° C. for 1.5 h, the mixture was left to stand at RT overnight, the DMF was removed under reduced pressure, and the residue was then admixed with water and extracted four times with dichloromethane. The combined organic phases were dried over sodium sulfate and, after the desiccant had been filtered off, dried under reduced pressure. The residue was purified by means of preparative HPLC (met. A), and the clean product fractions were combined, freed of the acetonitrile under reduced pressure, alkalized with saturated potassium carbonate solution and extracted repeatedly with dichloromethane. The combined organic phases were dried over sodium sulfate, filtered and concentrated. 198 mg of the title compound were obtained.

reactant | sodium hydride | 511 mg | [H-].[Na+]
reactant | 6-chloro-8-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine trifluoroacetate | 500 mg | FC(C(=O)O)(F)F.ClC=1C=C(C=2N(N1)C(=NN2)N)C
reactant | 3-pentanol | 5 ml | CCC(CC)O | C5H12O
reactant | 3-Pentanol | 10.2 ml | CCC(CC)O | C5H12O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-(1-Ethylpropoxy)-8-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 198 mg | C(C)C(CC)OC=1C=C(C=2N(N1)C(=NN2)N)C | C11H17N5O
